US07592347B2
2-Chloro-5-(methylaminocarbonyl)pyridine (D42)
The title compound (D42) was prepared from methylamine and 6-chloronicotinic acid according to the procedure described for Description 35.

reactant | methylamine | CN | CH5N
reactant | 6-chloronicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
product | 2-Chloro-5-(methylaminocarbonyl)pyridine | ClC1=NC=C(C=C1)C(=O)NC | C7H7ClN2O
